US08110687B2
A slurry of 2-{(E)-2-[3-amino-5-(trifluoromethyl)phenyl]vinyl}-1H-isoindole-1,3(2H)-dione (1.99 g, 5.98 nunol) and Pd/C (0.20 g, 10% by weight) in ETOH (123 mL) and THF (88 mL) was allowed to stir under 50 psi of hydrogen at rt until reaction was judged to be complete. The mixture was filtered through Celite and concentrated. The residue was purified by column chromatography to give 2-12-[3-amino-5-(trifluoromethyl)phenyl]ethyl)-1H-isoindole-1,3(2H)-dione (365 mg, 16% yield). LCMS: (FA) ES+ 335.

reactant | 2-{(E)-2-[3-amino-5-(trifluoromethyl)phenyl]vinyl}-1H-isoindole-1,3(2H)-dione | 1.99 g | NC=1C=C(C=C(C1)C(F)(F)F)/C=C/N1C(C2=CC=CC=C2C1=O)=O | C17H11F3N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.20 g | [Pd] | Pd
solvent | THF | 88 mL | C1CCOC1 | C4H8O
product | 1H-isoindole-1,3(2H)-dione | 365 mg, 16% yield | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
